2193-01-11 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - swan-ganz catheter placemed and myocardial bx performed
   - swan [**Location (un) 103**] very high wedge pressures
   - started on lasix drip, currently at 6cc/hr
   - Dr. [**First Name (STitle) **] is considering a heart transplant, but barriers include
   morbid obesity, drug use history, and concern for ongoing alcohol use
   - Sputum gram stain: heavy growth of GNRs
   Allergies:
   Cozaar (Oral) (Losartan Potassium)
   Cough;
   Spironolactone
   Rash; itching;
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Cefazolin - [**2193-1-9**] 12:15 AM
   Levofloxacin - [**2193-1-9**] 01:00 PM
   Vancomycin - [**2193-1-10**] 07:52 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2193-1-10**] 06:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-1-11**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 101 (80 - 115) bpm
   BP: 123/61(82) {91/46(61) - 151/79(99)} mmHg
   RR: 25 (19 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 19 (15 - 23)mmHg
   PAP: (34 mmHg) / (23 mmHg)
   CO/CI (Fick): (8.5 L/min) / (2.9 L/min/m2)
   Mixed Venous O2% Sat: 64 - 68
   Total In:
                                                                  3,111 mL
                                                                    784 mL
   PO:
   TF:
   IVF:
                                                                  2,811 mL
                                                                    784 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                    730 mL
   Urine:
                                                                  2,780 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    231 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 440 (420 - 573) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 24 cmH2O
   SpO2: 94%
   ABG: 7.36/53/102/27/2
   Ve: 12 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Warm, Right lower extremity edema: 3+, Left lower
   extremity edema: 3+
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Dopplerable), (Left DP pulse: Dopplerable)
   Neurologic: Wakes with voice, follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   239 K/uL
   11.1 g/dL
   90 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.0 mEq/L
   18 mg/dL
   107 mEq/L
   142 mEq/L
   34.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2193-1-9**]  02:19 PM
                             [**2193-1-9**]  04:25 PM
                             [**2193-1-10**]  01:03 AM
                             [**2193-1-10**]  05:25 AM
                             [**2193-1-10**]  05:29 AM
                             [**2193-1-10**]  07:42 PM
                             [**2193-1-10**]  08:08 PM
                             [**2193-1-10**]  08:18 PM
                             [**2193-1-11**]  03:46 AM
                             [**2193-1-11**]  04:04 AM
   WBC
   10.2
   9.9
   9.8
   Hct
   34.2
   35.1
   35.1
   34.0
   Plt
   235
   235
   239
   Cr
   2.1
   1.7
   1.7
   1.6
   TCO2
   30
   28
   29
   31
   31
   Glucose
   86
   86
   82
   90
   Other labs: PT / PTT / INR:15.5/23.5/1.4, ALT / AST:19/51, Alk Phos / T
   Bili:97/2.1, Differential-Neuts:77.9 %, Lymph:15.9 %, Mono:5.3 %,
   Eos:0.6 %, Lactic Acid:1.4 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.0 mg/dL
   CXR [**2193-1-10**]: As compared to the previous examination, there is no
   relevant change. Massive cardiomegaly with evidence of overhydration.
   Nasogastric tube and endotracheal tube in unchanged position. No newly
   appeared focal parenchymal opacities suggesting pneumonia.
   Assessment and Plan
   24 yo M with non-ischemic cardiomyopathy admitted to CCU after failure
   to extubate s/p elective AICD placement and right heart cath.
   .
   # Systolic CHF: Patient with profound biventricular systolic
   dysfunction, presumably secondary to prior heavy cocaine use in year
   prior to CHF diagnosis.  Also possibly viral (was tested at time of
   diagnosis and only positive for RSV) or alcoholic (patient endorses
   weekend binges at most). Cardiac catheterization performed on [**1-10**]
   included myocardial biopsy. TTE of [**1-9**] shows EF of 10% that may be an
   overestimate His situation is grave, as his LV stroke work capacity is
   so profoundly reduced.  [**First Name9 (NamePattern2) 10528**] [**Location (un) 103**] elevated PA pressures and wedge
   pressures during cath were markedly elevated. His morbid obesity and
   history of substance abuse makes cardiac transplantation candidacy
   questionable.  Dr. [**First Name (STitle) **] following.
   -  F/U catheterization report & pathology
   -  Continue Lasix gtt diuresis, currently at 6cc/hr, but will titrate
   up as patient
s I/O
s net even for CCU stay.
   -  Goal diuresis -1 to 1.5 L today, total goal ~10L diuresis
   -  Continue BB, Digoxin, fluid restriction, and when appropriate, a low
   Na diet
   -  Do not check PCWP as catheter placement is not ideal
   -  Consider extubation when PA pressures are 20 or RA pressures are
   [**10-4**]
   .
   # Failure to extubate: Patient was unable to be extubated in the PACU
   s/p ICD placement, EP study and right heart cardiac catherization on
   [**1-8**]. Likely in setting of extrapulmonary restriction (morbid
   obesity/large body habitus) and poor lung compliance due to volume
   overload from patient's systolic and diastolic heart failure, leading
   to elevated elastic pressures. ABG
s demonstrate chronic respiratory
   acidosis with appropriate metabolic compensation, which is consistent
   with patient
s baseline and is likely due to obesity hypoventilation.
   Elevated left and right heart pressures noted on RHC [**1-8**] with severe
   pulmonary hypertension. Cardiac catheterization with swann placement on
   [**1-10**] demonstrated elevated wedge pressures. Mean PA pressures currently
   in the low 30
s.  Patient was put on was transitioned from AC to CPAP
   on [**1-9**].
   - Wean from ventilator when PA pressures are 20 or RA pressures are
   [**10-4**]
   - Continue propofol without oversedating
   - Continue Lasix diuresis
   .
   # Acute renal failure: Resolving. Cre up to 1.7 on admission and up to
   2.1 on [**1-9**] (baseline 1.1). Improving to 1.6 today  Patient relatively
   oliguric on admission to the CCU. Currently on Lasix gtt with adequate
   UOP. Most likely, his ARF was pre-renal in setting of hypotension
   during the procedure due to sedation/intubation, exacerbating poor
   forward flow in setting of depressed EF% versus overdiuresis with PO
   lasix at home. No recent contrast administration.
   - Continue Lasix gtt
   - hold [**Last Name (un) 284**] for now
   - Renally dose all meds, avoid nephrotoxins
   .
   # Fever: Pt with T to 101.2 on arrival to CCU, spiked to 101.4 on [**1-8**].
   Afebrile since [**1-8**]. Likely febrile in setting of recent procedure with
   traumatic intubation. Sputum gram stain demonstrates 2+ gram positive
   cocci/2+gram negative rods/1+ gram negative diplococci. Preliminary
   culture growing gram negative rods. Most likely aspiration pneumonitis.
   UA/Ucx negative. Blood cx pending, but NGTD. RUQ US: No gallbladder, no
   cholecystitis.
   - f/u final sputum, blood cultures
   - f/u CXR
   - Tylenol prn: fever (< 2 grams daily)
   - D/C Vancomycin as blood cultures negative >48 hours
   - Continue Levofloxacin, day 3.
   .
   # RHYTHM: Patient is s/p AICD placement for primary prevention of
   tachyarrythmias given non-ischemic cardiomyopathy EF of 10%
   (presently). One episode of NSVT in the CCU.  Dig level 0.9 on [**1-9**].
   - will need PA/lateral CXR once pt is extubated to check lead position
   - replete K > 4 Mg > 2
   - continue beta-blocker and Digoxin
   .
   # Hyperbilirubinemia: Long-standing but bilirubin is elevated at 2.1.
   Etiologies include obstructive and infiltrative disease though most
   likely congestive as it has trended down with improved renal function.
   Given fever, he was ruled out for cholecystitis and may have
   gallbladder agenesis as it was unable to be imaged by CT or US.
   - Trend LFT
   .
   # Hypotension: Resolved. Patient weaned from Neo in the AM of [**1-9**].
   Since then, sbp
s have been in the 110-140
s. Unlikely to be sepsis as
   bp
s improved and central venous O2
s are appropriate.
   - Continue Propofol titrating to prevent oversedation
   - F/u final blood and urine cultures
   - Check  c. diff toxin assay
   - Continue Levofloxacin, day 3
   .
   # CORONARIES: No known hx of CAD. Cath report not returned, but no
   report of coronary disease.
   - continue ASA, beta-blocker
   - hold [**Last Name (un) 284**] in setting acute renal failure
   .
   # Asthma:
   - ipratropium prn or albuterol
   .
   # Anemia: Known iron deficiency anemia.
   - Trend Hct.
   - Continue iron supplements with bowel regimen and vitamin C once able
   to take PO.
   .
   # OSA:
   - restart/encourage nocturnal CPAP at home once extubated.
   ICU Care
   Nutrition: NPO except meds
   Glycemic Control:  None
   Lines:
   20 Gauge - [**2193-1-8**] 10:00 PM
   18 Gauge - [**2193-1-8**] 10:56 PM
   Arterial Line - [**2193-1-9**] 02:03 AM
   PA Catheter - [**2193-1-10**] 05:00 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Famotidine 20mg q12H
   VAP:
   Communication:  Patient & patient
s mother
   [**Name (NI) 129**] status: Full code
   Disposition: pending clinical improvement, extubation
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 45 minutes.
   Additional comments:
   We will continue to volume unload; anticipate at least 10 liters
   required.  RV and LV fillimg pressures remain high but improiving.
   Would diurese aggressively until PAD < 20 mmHg and RAP < 15 mmHG.  [**Month (only) 11**]
   remove SGG once volume unloading goals are met.  No plans for milrinone
   or other inotropic or device therapy at this time.  Goal is top
   stabilize hemodynamically so as to discharge patient to rehab for
   outpatient transplant evaluation.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2193-1-11**]
   14:23 ------

2193-01-12 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubation goal: diurese ~10L or goal PA pressures of 20 or RA
   pressures of [**10-4**]
   - switched from toprol to tartrate 50mg TID will titrate up PRN
   - EP recs re: ok to d/c vanc
   - started on TF, nutrition c/s placed
   - sedation changed to versed+fentanyl since pt has been on propofol for
   3 days
   Allergies:
   Cozaar (Oral) (Losartan Potassium)
   Cough;
   Spironolactone
   Rash; itching;
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-1-9**] 01:00 PM
   Vancomycin - [**2193-1-10**] 07:52 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2193-1-11**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2193-1-12**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-1-12**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.2
C (100.8
   HR: 88 (84 - 110) bpm
   BP: 112/47(70) {101/45(66) - 157/111(114)} mmHg
   RR: 17 (13 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 17 (16 - 31)mmHg
   PAP: (44 mmHg) / (22 mmHg)
   CO/CI (Fick): (9.7 L/min) / (3.3 L/min/m2)
   Mixed Venous O2% Sat: 58 - 72
   Total In:
                                                                  2,535 mL
                                                                    808 mL
   PO:
   TF:
                                                                     60 mL
                                                                    149 mL
   IVF:
                                                                  2,145 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  4,650 mL
                                                                  1,610 mL
   Urine:
                                                                  4,650 mL
                                                                  1,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,115 mL
                                                                   -802 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 659 (419 - 659) mL
   PS : 15 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: 7.34/63/96.[**Numeric Identifier 274**]/32/5
   Ve: 9.4 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General: young morbidly obese man, lying on back, intubated but easily
   rousable, NAD
   Cardiac: tachycardic, regular rhythm, no murmurs
   Pulmonary: clear to auscultation anteriorly
   Abdominal: soft, obese, NT/ND, normoactive bowel sounds
   Extremities: 3+ lower extremity edema, warm, patchy pink rash with
   onychomycosis of the toenails bilaterally, pneumoboots on
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: dopplerable), (Left DP pulse: dopplerable
   Skin:  rash improved over abdomen and legs
   Neurologic: follows simple commands, purposeful movement of extremities
   Labs / Radiology
   210 K/uL
   11.3 g/dL
   99 mg/dL
   1.4 mg/dL
   32 mEq/L
   4.0 mEq/L
   16 mg/dL
   106 mEq/L
   147 mEq/L
   35.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2193-1-10**]  07:42 PM
                             [**2193-1-10**]  08:08 PM
                             [**2193-1-10**]  08:18 PM
                             [**2193-1-11**]  03:46 AM
                             [**2193-1-11**]  04:04 AM
                             [**2193-1-11**]  02:50 PM
                             [**2193-1-11**]  03:05 PM
                             [**2193-1-11**]  09:55 PM
                             [**2193-1-12**]  04:29 AM
                             [**2193-1-12**]  04:47 AM
   WBC
   9.9
   9.8
   10.7
   Hct
   35.1
   35.1
   34.0
   35.8
   Plt
   235
   239
   210
   Cr
   1.7
   1.6
   1.4
   1.4
   TCO2
   31
   31
   32
   34
   35
   Glucose
   82
   90
   94
   99
   Other labs: PT / PTT / INR:15.1/22.9/1.3, ALT / AST:19/51, Alk Phos / T
   Bili:97/2.1, Differential-Neuts:77.9 %, Lymph:15.9 %, Mono:5.3 %,
   Eos:0.6 %, Lactic Acid:1.4 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.6 mg/dL
   Sputum Culture [**2193-1-11**]: Pan-sensitive Serratia Marcescens
   Assessment and Plan
   24 yo M with non-ischemic cardiomyopathy admitted to CCU after failure
   to extubate s/p elective AICD placement and right heart cath.
   .
   # Acute on chronic systolic CHF exacerbation: Patient with profound
   biventricular systolic dysfunction, presumably secondary to prior heavy
   cocaine use in year prior to CHF diagnosis.  Also possibly viral (was
   tested at time of diagnosis and only positive for RSV) or alcoholic
   (patient endorses weekend binges at most). Cardiac catheterization
   performed on [**1-10**] included myocardial biopsy. TTE of [**1-9**] shows EF of
   10% that may be an overestimate His situation is grave, as his LV
   stroke work capacity is so profoundly reduced.  [**First Name9 (NamePattern2) 10528**] [**Location (un) 103**] elevated PA
   pressures and wedge pressures during cath were markedly elevated. His
   morbid obesity and history of substance abuse makes cardiac
   transplantation candidacy questionable.
   -  F/U myocardial pathology
   -  Continue Lasix gtt diuresis
   -  Goal diuresis -2 L today, total goal ~10L diuresis for CCU stay
   -  Continue Digoxin, fluid restriction, and when appropriate, a low Na
   diet
   -  Continue Metoprolol 50mg TID
   -  Do not check PCWP as catheter placement is not ideal
   -  Consider extubation when PA pressures <20 or RA pressures are <15
   .
   # Failure to extubate: Patient was unable to be extubated in the PACU
   s/p ICD placement, EP study and right heart cardiac catherization on
   [**1-8**]. Likely in setting of extrapulmonary restriction (morbid
   obesity/large body habitus) and poor lung compliance due to volume
   overload from patient's systolic and diastolic heart failure, leading
   to elevated pressures. ABG
s demonstrate chronic respiratory acidosis
   with appropriate metabolic compensation, which is consistent with
   patient
s baseline and is likely due to obesity hypoventilation.
   Elevated left and right heart pressures noted on RHC [**1-8**] with severe
   pulmonary hypertension. Cardiac catheterization with swann placement on
   [**1-10**] demonstrated elevated wedge pressures. Mean PA pressures currently
   in the low 30
s.  Patient was put on was transitioned from AC to CPAP
   on [**1-9**].
   - Wean from ventilator when PA pressures are <20 or RA pressures are
   <15
   - Continue Fentanyl/Versed sedation
   - Continue Lasix diuresis
   .
   # Fever: Pt with T to 101.2 on arrival to CCU, spiked to 101.4 on [**1-8**].
   Afebrile since [**1-8**], but elevated temperature this AM to 100.9.
   Vancomycin d/c
d on [**1-11**] as blood cultures negative >48 hours and
   received 4 days of treatment. Sputum culture demonstrates pan-sensitive
   Serratia Marcescens. UA/Ucx negative. Blood cx pending, but NGTD. RUQ
   US: No gallbladder, no cholecystitis. Will reculture and expand
   coverage if spikes.
   - repeat blood, urine cultures
   - f/u blood cultures
   - f/u CXR
   - Tylenol prn: fever (< 2 grams daily)
   - Continue Levofloxacin, day 4
   .
   # Skin Rash: Patient with urticarial appearing skin rash on lower
   abdomen & legs upon presentation to the CCU, thought to be [**1-22**] Keflex,
   switched to Vancomycin, rash no longer urticarial, but patchy and red
   macules now including the forearms and persisting over lower
   abdomen/legs. Vancomycin held on [**1-11**]. [**Month (only) 11**] be red man
s syndrome given
   new appearance/distribution.
   - Will continue to observe for now, but if persists, consider changing
   Levofloxacin.
   .
   # Acute renal failure: Resolving. Cre up to 1.7 on admission and up to
   2.1 on [**1-9**] (baseline 1.1). Improving to 1.4 today. On Lasix gtt with
   negative 2L over the past 24 hours. Most likely, his ARF was pre-renal
   in setting of hypotension during the procedure due to
   sedation/intubation, exacerbating poor forward flow in setting of
   depressed EF%. No recent contrast administration.
   - Continue Lasix gtt
   - Goal diuresis minimum 2L today
   - Restart Valsartan 40mg daily
   - Renally dose all meds, avoid nephrotoxins
   .
   # RHYTHM: Patient is s/p AICD placement for primary prevention of
   tachyarrythmias given non-ischemic cardiomyopathy EF of 10%
   (presently). One episode of NSVT in the CCU.  Dig level 0.9 on [**1-9**].
   - will need PA/lateral CXR once patient is extubated to check lead
   position.
   - replete K > 4 Mg > 2
   - continue Digoxin 0.25mg daily
   - Continue Metoprolol from 50mg TID
   .
   # Hyperbilirubinemia: Long-standing, but bilirubin is elevated at 2.1.
   Etiologies include obstructive and infiltrative disease though most
   likely congestive as it has trended down with improved renal function.
   Given fever, he was ruled out for cholecystitis and may have
   gallbladder agenesis as it was unable to be imaged by CT or US.
   - Trend LFT
   .
   # Hypotension: Resolved. Patient weaned from Neo in the AM of [**1-9**].
   Since then, sbp
s have been in the 110-140
s. Unlikely to be sepsis as
   bp
s improved and central venous O2
s are appropriate.
   - Continue Fentanyl/Versed sedation
   - F/u final blood cultures
   - Continue Levofloxacin, day 4
   .
   # CORONARIES: No known hx of CAD. No coronary disease reported on
   cardiac catheterization.
   - Continue ASA, beta-blocker
   - Hold [**Last Name (un) 284**] in setting acute renal failure
   .
   # Asthma:
   - Ipratropium prn or Albuterol
   .
   # Anemia: Known iron deficiency anemia.
   - Trend Hct
   - Continue iron supplements with bowel regimen and vitamin C once able
   to take PO.
   .
   # OSA:
   - restart/encourage nocturnal CPAP at home once extubated.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2193-1-11**] 06:00 PM 30 mL/hour
   Glycemic Control:  none
   Lines:
   Arterial Line - [**2193-1-9**] 02:03 AM
   PA Catheter - [**2193-1-10**] 05:00 PM
   Prophylaxis:
   DVT: SC Heparin, pneumoboots
   Stress ulcer: Famotidine 20mg q12H
   VAP:
   Comments:
   Communication:  Patient & patient
s mother
   [**Name (NI) 129**] status: Full code
   Disposition: pending extubation
   ------ Protected Section ------
   Attending
s Note.10.00hrs
   Reviewed overnight course and examined Pt.
   Agree with assessment of Dr.[**Last Name (STitle) 10179**].
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 40 mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2193-1-12**] 10:36 ------

2193-01-13 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - new TF recs this AM with nutrition, increased free water flushes for
   hypernatremia
   - AM CXR demonstrated ETtube 10cm above carina, ETtube advanced by 4cm,
   repeat CXR demonstrates appropriate placement
   - persistently febrile to 102, blood/sputum/urine cx's sent in AM, U/A
   negative, in the PM CVP & SVR both low & mixed venous O2 at 74 but
   fever still at 102, so repeat blood cx's sent, received vancomycin
   1500mg IV x 1 (notably all lines and ICD site look fine)
   Allergies:
   Cozaar (Oral) (Losartan Potassium)
   Cough;
   Spironolactone
   Rash; itching;
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2193-1-13**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2193-1-12**] 08:29 AM
   Heparin Sodium (Prophylaxis) - [**2193-1-13**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-1-13**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.3
C (99.1
   HR: 95 (76 - 143) bpm
   BP: 135/65(81) {105/41(62) - 186/97(123)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 190.2 kg (admission): 200.6 kg
   Height: 70 Inch
    CVP: 15 (14 - 28)mmHg
   PAP: (40 mmHg) / (20 mmHg)
   CO/CI (Fick): (10.8 L/min) / (3.7 L/min/m2)
   Mixed Venous O2% Sat: 71 - 74
   Total In:
                                                                  2,697 mL
                                                                  1,157 mL
   PO:
   TF:
                                                                    539 mL
                                                                    121 mL
   IVF:
                                                                  1,008 mL
                                                                    576 mL
   Blood products:
   Total out:
                                                                  4,140 mL
                                                                  1,700 mL
   Urine:
                                                                  4,080 mL
                                                                  1,610 mL
   NG:
                                                                     60 mL
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,443 mL
                                                                   -543 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 576 (572 - 648) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 93%
   ABG: 7.40/55/82.[**Numeric Identifier **]/35/6
   Ve: 12 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General: young morbidly obese man, lying on back, intubated but easily
   rousable, NAD
   Cardiac: regular rate & regular rhythm, no murmurs
   Pulmonary: clear to auscultation anteriorly
   Abdominal: soft, obese, NT/ND, normoactive bowel sounds
   Extremities: 1+ lower extremity edema, warm, patchy macular pink rash
   with onychomycosis of the toenails bilaterally, pneumoboots on
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: dopplerable), (Left DP pulse: dopplerable
   Skin:  pink macular rash improved over abdomen, arms, and legs
   Neurologic: follows simple commands, purposeful movement of extremities
   Labs / Radiology
   204 K/uL
   11.5 g/dL
   105 mg/dL
   1.4 mg/dL
   35 mEq/L
   3.5 mEq/L
   18 mg/dL
   105 mEq/L
   148 mEq/L
   35.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2193-1-11**]  09:55 PM
                             [**2193-1-12**]  04:29 AM
                             [**2193-1-12**]  04:47 AM
                             [**2193-1-12**]  03:40 PM
                             [**2193-1-12**]  04:04 PM
                             [**2193-1-12**]  07:55 PM
                             [**2193-1-12**]  10:56 PM
                             [**2193-1-13**]  03:56 AM
                             [**2193-1-13**]  04:03 AM
                             [**2193-1-13**]  05:59 AM
   WBC
   10.7
   9.7
   Hct
   35.8
   35.1
   Plt
   210
   204
   Cr
   1.4
   1.5
   1.4
   TCO2
   34
   35
   36
   38
   36
   38
   35
   Glucose
   99
   94
   105
   Other labs: PT / PTT / INR:16.1/24.2/1.4, ALT / AST:19/51, Alk Phos / T
   Bili:97/2.2, Differential-Neuts:73.2 %, Lymph:17.3 %, Mono:6.6 %,
   Eos:2.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   24 yo M with non-ischemic cardiomyopathy admitted to CCU after failure
   to extubate s/p elective AICD placement and right heart
   catheterization.
   .
   # Acute on chronic systolic CHF exacerbation: Patient with profound
   biventricular systolic dysfunction, presumably secondary to prior heavy
   cocaine use in year prior to CHF diagnosis.  Cardiac catheterization
   performed on [**1-10**] included myocardial biopsy. TTE of [**1-9**] shows EF of
   10% that may be an overestimate. [**First Name9 (NamePattern2) 10528**] [**Location (un) 103**] elevated PA pressures and
   wedge pressures during catheterization. His morbid obesity and history
   of substance abuse makes cardiac transplantation candidacy
   questionable.  Diuresis optimized on [**1-12**] when SBP
s >120, so evening
   Metoprolol dose decreased to 25mg TID with good rate control. CXR
   demonstrates improved pulmonary edema, lower extremity edema nearly
   resolved, length of stay negative 4.5L.
   -  F/U myocardial pathology
   -  Continue Lasix gtt diuresis, goal -.5 to 1 L today
   -  Continue Digoxin, fluid restriction
   -  Continue Metoprolol 50mg TID
   -  Do not check PCWP as catheter placement is not ideal
   -  Consider extubation as PA pressures <20
   .
   # Failure to extubate: Patient was unable to be extubated in the PACU
   s/p ICD placement, EP study and right heart cardiac catherization on
   [**1-8**]. Likely in setting of extrapulmonary restriction (morbid
   obesity/large body habitus) and poor lung compliance due to volume
   overload from patient's systolic and diastolic heart failure. Cardiac
   catheterization with swann placement on [**1-10**] demonstrated elevated
   wedge pressures.  ABG
s demonstrate chronic respiratory acidosis with
   appropriate metabolic compensation, which is consistent with patient
   baseline and is likely due to obesity hypoventilation. Today, CXR
   improved, diastolic PA pressures <20 and edema significantly improved.
   - Transition to pressure support w/ ABG
s PRN
   - Continue Lasix diuresis for goal negative 0.5L to 1L
   - Discuss with Pulmonary re: extubation plan
   - Continue Fentanyl/Versed sedation for now
   .
   # Fever: Patient with fever to 101.2 on arrival to CCU, afebrile while
   on Vancomycin & Levaquin. Sputum culture demonstrates pan-sensitive
   Serratia Marcescens. Vancomycin held after 4 days of treatment on [**1-11**]
   but patient developed persistent fever on [**1-12**] to 102.9 on Tylenol.
   UA/Ucx negative. Blood cx pending, but NGTD. RUQ US: normal. In the
   context of persistent fever, low SVR, and new hardware placement with
   lines in place, restarted IV Vancomycin with defeverescence.
   - f/u blood cultures & repeat sputum and urine cultures
   - f/u CXR
   - Tylenol prn: fever (< 2 grams daily)
   - Continue Levofloxacin, day 5
   - Continue Vancomycin, day 2
   - Continue to monitor for progression in suspected drug rash
   .
   # Acute renal failure: Resolving. Creatinine 1.7 on admission and up to
   2.1 on [**1-9**] (baseline 1.1). Cr stable at 1.4 today. ARF likely [**1-22**] poor
   forward flow in the setting of depressed EF. On Lasix gtt, net negative
   1.5L over the past 24 hours.
   - Lasix gtt with goal negative 0.5L to 1L
   - Continue Valsartan 40mg daily
   - Renally dose all meds, avoid nephrotoxins
   .
   # RHYTHM: Patient is s/p AICD placement for primary prevention of
   tachyarrythmias given non-ischemic cardiomyopathy EF of 10%
   (presently). One episode of NSVT in the CCU.  Dig level 0.9 on [**1-9**].
   Patient will need PA/lateral CXR once he is extubated to check lead
   position.
   - Replete K > 4 Mg > 2
   - Continue Digoxin 0.25mg daily
   - Continue Metoprolol from 50mg TID
   .
   # Hyperbilirubinemia: Stable at 2.2. Etiologies include obstructive and
   infiltrative disease though most likely congestive. Given fever, he was
   ruled out for cholecystitis and may have gallbladder agenesis as it was
   unable to be imaged by CT or US.
   - Trend LFT
   .
   # CORONARIES: No known hx of CAD. No coronary disease reported on
   cardiac catheterization.
   - ASA 325mg daily
   - Metoprolol 50mg PO TID
   - Valsartan 40mg PO daily
   .
   # Anemia: Known iron deficiency anemia.
   - Trend Hct
   - Ferrous Sulfate 325mg PO TID, on bowel regimen
   - Ascorbic acid 250mg PO TID
   .
   # Asthma: Will start Albuterol 1-2 puffs q6H:PRN wheezing when
   extubated
   .
   # OSA:  Restart nocturnal CPAP once extubated.
   ICU Care
   Nutrition: Replete with fiber Full strength; Additives: Beneprotein, 35
   gm/day
   Starting rate: 10 ml/hr; Advance rate by 10 ml q6h Goal rate: 80 ml/hr
   Flush w/ 200 ml water q4h
   Glycemic Control:  none
   Lines:
   Arterial Line - [**2193-1-9**] 02:03 AM
   PA Catheter - [**2193-1-10**] 05:00 PM
   Prophylaxis:
   DVT: SC Heparin, Pneumoboots
   Stress ulcer: Famotidine 20mg PO q12H
   VAP:  Vancomycin & Levofloxacin
   Communication:  Patient & patient
s mother
   [**Name (NI) 129**] status: Full code
   Disposition: pending clinical improvement/extubation
   ------ Protected Section ------
   Attending
s Note:09.30hrs
   Reviewed overnight course and examined Pt.
   Agree with improvement and plan  of Rx.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 45 mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2193-1-13**] 10:29 ------
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2193-1-13**] 10:29 ------

2193-01-14 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2193-1-13**] 06:00 PM
 URINE CULTURE - At [**2193-1-13**] 06:00 PM
 FEVER - 101.1
C - [**2193-1-13**] 09:00 PM
   - AM CXR is markedly improved
   - A/a gradient is 204
   - switching from AC to Pressure support and back to AC at night for
   high C02
   - giving another dose of 1500mg Vanc
   - Will ask pharmacist if Inspira cross-reacts with spironolactone
   - continuing valasartan
   - asking pulmonary for opinion on extubation goals/strategies
   - Pulm: continue diuresis, broaden abx if spike (to cover GNR),
   consider Chest CT and BiPap when extubated
           - check ua and sputum for fever/wbc work up
   - drawing vanc trough at 1230 on [**1-14**]
   - UOP drops with BP; Required 15/hr Lasix. Pt woke up and UOP rose to
   500/hr.
   Allergies:
   Cozaar (Oral) (Losartan Potassium)
   Cough;
   Spironolactone
   Rash; itching;
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-1-13**] 12:00 PM
   Vancomycin - [**2193-1-14**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-1-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-1-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.6
C (97.9
   HR: 92 (71 - 114) bpm
   BP: 128/52(74) {88/40(55) - 154/76(97)} mmHg
   RR: 17 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 186.6 kg (admission): 200.6 kg
   Height: 70 Inch
    CVP: 13 (11 - 17)mmHg
   PAP: (38 mmHg) / (21 mmHg)
   CO/CI (Fick): (15 L/min) / (5.1 L/min/m2)
   Mixed Venous O2% Sat: 71 - 80
   Total In:
                                                                  4,336 mL
                                                                  1,351 mL
   PO:
   TF:
                                                                    943 mL
                                                                    462 mL
   IVF:
                                                                  1,844 mL
                                                                    459 mL
   Blood products:
   Total out:
                                                                  4,870 mL
                                                                  1,990 mL
   Urine:
                                                                  4,780 mL
                                                                  1,990 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                   -534 mL
                                                                   -639 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 424 (424 - 705) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/60/105/37/7
   Ve: 10.3 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General: young morbidly obese man, lying on back, intubated but easily
   rousable, NAD
   Cardiac: regular rate & regular rhythm, no murmurs
   Pulmonary: clear to auscultation anteriorly
   Abdominal: soft, obese, NT/ND, normoactive bowel sounds
   Extremities: 1+ lower extremity edema, warm, patchy macular pink rash
   with onychomycosis of the toenails bilaterally, pneumoboots on
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: dopplerable), (Left DP pulse: dopplerable
   Skin:  pink macular rash improved over abdomen, arms, and legs
   Neurologic: follows simple commands, purposeful movement of extremities
   Labs / Radiology
   174 K/uL
   11.4 g/dL
   115 mg/dL
   1.2 mg/dL
   37 mEq/L
   3.7 mEq/L
   19 mg/dL
   103 mEq/L
   148 mEq/L
   36.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2193-1-13**]  05:59 AM
                             [**2193-1-13**]  07:22 AM
                             [**2193-1-13**]  11:37 AM
                             [**2193-1-13**]  11:43 AM
                             [**2193-1-13**]  05:36 PM
                             [**2193-1-13**]  06:08 PM
                             [**2193-1-13**]  06:13 PM
                             [**2193-1-13**]  08:13 PM
                             [**2193-1-14**]  03:53 AM
                             [**2193-1-14**]  04:00 AM
   WBC
   9.9
   Hct
   36
   36.0
   38
   38.0
   36.5
   Plt
   174
   Cr
   1.3
   1.2
   TCO2
   35
   36
   36
   39
   38
   37
   Glucose
   115
   Other labs:
   PT / PTT / INR:16.1/24.2/1.4,
   Mg++:1.9 mg/dL
   Sputum cx ([**1-9**]): pan-sensitive SERRATIA MARCESCENS
   Sputum cx ([**1-12**]): GNR
   Blood cx ([**1-12**]): 1/4 bottles of GPC
   Assessment and Plan
   24 yo M with non-ischemic cardiomyopathy admitted to CCU after failure
   to extubate s/p elective AICD placement and right heart
   catheterization.
   .
   # Acute on chronic systolic CHF exacerbation: Patient with profound
   biventricular systolic dysfunction, presumably secondary to prior heavy
   cocaine use in year prior to CHF diagnosis.  Cardiac catheterization
   performed on [**1-10**] included myocardial biopsy. TTE of [**1-9**] shows EF of
   10% that may be an overestimate. [**First Name9 (NamePattern2) 10528**] [**Location (un) 103**] elevated PA pressures and
   wedge pressures during catheterization. His morbid obesity and history
   of substance abuse makes cardiac transplantation candidacy
   questionable.  Diuresis very sensitive to BP, i.e., UOP improves
   significantly when sBP is above 120. CXR demonstrates improved
   pulmonary edema, lower extremity edema improved, length of stay
   negative 4.6L.
   -  Continue Lasix gtt diuresis, goal - 1 L today
   -  F/U myocardial pathology
   -  Eplerenone is structurally similar to spironolactone, so given h/o
   allergy to spironolactone and current rash, would hold off on
   eplerenone
   -  Consider metolazone if UOP poor today
   -  change Metoprolol 50mg TID to carvedilol 3.125mg [**Hospital1 **]
   -  decrease valsartan from 40mg to 20mg daily since pt
s UOP is very
   sensitive to BP
   -  Continue Digoxin
   -  once 3 PIVs are in place today, remove swan now that the pressures
   have been stale
   .
   # Failure to extubate: Patient was unable to be extubated in the PACU
   s/p ICD placement, EP study and right heart cardiac catherization on
   [**1-8**]. Likely in setting of extrapulmonary restriction (morbid
   obesity/large body habitus) and poor lung compliance due to volume
   overload from patient's systolic and diastolic heart failure. Cardiac
   catheterization with swann placement on [**1-10**] demonstrated elevated
   wedge pressures.  ABG
s demonstrate chronic respiratory acidosis with
   appropriate metabolic compensation, which is consistent with patient
   baseline and is likely due to obesity hypoventilation. Today, CXR
   improved, diastolic PA pressures around 20 and edema significantly
   improved.  Vent setting was changed from AC to PS yesterday morning
   [**1-13**], which was turned back to PS last night for respiratory acidosis.
   - Continue Lasix diuresis for goal negative 1L
   - switch back to pressure support w/ ABG
s PRN
   - when more stable, will extubate to BiPAP
   - keep HOB at 30
   - f/u pulmonary recs
   - Continue Fentanyl/Versed sedation for now
   .
   # Fever: Patient with fever to 101.2 on arrival to CCU, Tmax 102.9 on
   [**1-12**] and 101.1 on [**1-13**] after vancomycin was held after 4 days of
   treatment on [**1-11**]. Vanc was re-started on [**1-12**].  Sputum culture
   demonstrates pan-sensitive Serratia Marcescens. UA/Ucx negative. Blood
   cx from [**1-12**] grew GPC, speciation and sensitivities pending. RUQ US:
   normal.  Meds could be responsible to the fever as well.
   - f/u blood cultures GPC speciation and sensitivities
   - Continue Vancomycin, day 3
   - Continue Levofloxacin, day 6
   - will start cefepime today if pt spikes again
   - remove swan catheter if we can get 3 PIVs in
   - f/u CXR
   - Tylenol prn: fever (< 2 grams daily)
   - Continue to monitor for progression in suspected drug rash
   .
   # Acute renal failure: Resolving. Creatinine 1.7 on admission and up to
   2.1 on [**1-9**] (baseline 1.1). Cr stable at 1.2 today. ARF likely [**1-22**] poor
   forward flow in the setting of depressed EF. On Lasix gtt.
   - Lasix gtt with goal negative 1L
   - decrease Valsartan from 40mg to 20mg daily
   .
   # RHYTHM: Patient is s/p AICD placement for primary prevention of
   tachyarrythmias given non-ischemic cardiomyopathy EF of 10%
   (presently). One episode of NSVT in the CCU.  Dig level 0.9 on [**1-9**].
   Patient will need PA/lateral CXR once he is extubated to check lead
   position.
   - Replete K > 4 Mg > 2
   - Continue Digoxin 0.25mg daily
   - discontinue Metoprolol 50mg TID, start carvedilol 3.125mg [**Hospital1 **]
   .
   # Hyperbilirubinemia: Stable at 2.2. Etiologies include obstructive and
   infiltrative disease though most likely congestive. Given fever, he was
   ruled out for cholecystitis and may have gallbladder agenesis as it was
   unable to be imaged by CT or US.
   - Trend LFT
   .
   # CORONARIES: No known hx of CAD. No coronary disease reported on
   cardiac catheterization.
   - ASA 325mg daily
   - discontinue Metoprolol 50mg TID, start carvedilol 3.125mg [**Hospital1 **]
   - Valsartan 20mg PO daily
   .
   # Anemia: Known iron deficiency anemia.
   - Trend Hct
   - Ferrous Sulfate 325mg PO TID, on bowel regimen
   - Ascorbic acid 250mg PO TID
   .
   # Asthma: Will start Albuterol 1-2 puffs q6H:PRN wheezing when
   extubated
   .
   # OSA:  Restart nocturnal CPAP once extubated.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-1-14**] 04:02 AM 70 mL/hour
   Glycemic Control:  not on insulin
   Lines:
   Arterial Line - [**2193-1-9**] 02:03 AM
   PA Catheter - [**2193-1-10**] 05:00 PM
   Prophylaxis:
   DVT: SC Heparin, Pneumoboots
   Stress ulcer: Famotidine 20mg PO q12H
   VAP:  Vancomycin & Levofloxacin
   Communication:  Patient & patient
s mother
   [**Name (NI) 129**] status: Full code
   Disposition: pending clinical improvement/extubation
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   signed on [**2193-1-15**] for service providsed [**2193-1-14**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2193-1-15**]
   15:49 ------

2193-01-15 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-14**]:
   - metoprolol d/c'd, carvedilol ordered but held given sBP around 100
   - valsartan decreased from 40 to 20mg daily
   - started to metolazone since UOP was not great on lasix gtt alone
   - diuresing well on lasix gtt and metolazone
   - tried to put in PIVs, no success, plan to keep swan in today, and if
   afebrile today, will order PICC tomorrow.  If he spikes again, will
   remove swan and re-site the central line
   - PICC nurse attempted to put in PICC on the left arm, was able to put
   the line in but couldn't pass the line, then realized the ICD on the
   left side.  Will come back to put in the PICC on the right.
   - PICC placed at 1030
   - Has not had BM in 7 days
   Allergies:
   Cozaar (Oral) (Losartan Potassium)
   Cough;
   Spironolactone
   Rash; itching;
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-1-14**] 12:12 PM
   Vancomycin - [**2193-1-14**] 04:08 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2193-1-14**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2193-1-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-1-15**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.2
C (100.8
   HR: 120 (70 - 124) bpm
   BP: 119/47(71) {97/33(54) - 162/64(92)} mmHg
   RR: 22 (6 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 186.6 kg (admission): 200.6 kg
   Height: 70 Inch
    CVP: 16 (5 - 17)mmHg
   PAP: (41 mmHg) / (27 mmHg)
   CO/CI (Fick): (10.4 L/min) / (3.6 L/min/m2)
   Mixed Venous O2% Sat: 70 - 73
   Total In:
                                                                  4,500 mL
                                                                    456 mL
   PO:
   TF:
                                                                  1,831 mL
                                                                     83 mL
   IVF:
                                                                  1,239 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  6,140 mL
                                                                  1,695 mL
   Urine:
                                                                  6,020 mL
                                                                  1,695 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,640 mL
                                                                 -1,239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 501 (501 - 750) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 24 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/44/84.[**Numeric Identifier 1132**]/37/4
   Ve: 12.2 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Rash: blanching
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   174 K/uL
   11.4
   109 mg/dL
   1.1 mg/dL
   37 mEq/L
   3.9 mEq/L
   22 mg/dL
   103 mEq/L
   148 mEq/L
   35
   9.9 K/uL
        [image002.jpg]
                             [**2193-1-13**]  06:08 PM
                             [**2193-1-13**]  06:13 PM
                             [**2193-1-13**]  08:13 PM
                             [**2193-1-14**]  03:53 AM
                             [**2193-1-14**]  04:00 AM
                             [**2193-1-14**]  04:15 PM
                             [**2193-1-14**]  04:22 PM
                             [**2193-1-14**]  09:39 PM
                             [**2193-1-14**]  09:44 PM
                             [**2193-1-15**]  06:23 AM
   WBC
   9.9
   Hct
   38
   38.0
   36.5
   35
   Plt
   174
   Cr
   1.2
   1.1
   TCO2
   39
   38
   37
   40
   37
   31
   Glucose
   115
   109
   Other labs: PT / PTT / INR:16.1/24.2/1.4, ALT / AST:19/51, Alk Phos / T
   Bili:97/2.2, Differential-Neuts:73.2 %, Lymph:17.3 %, Mono:6.6 %,
   Eos:2.5 %, Lactic Acid:1.0 mmol/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   24 yo M with non-ischemic cardiomyopathy admitted to CCU after failure
   to extubate s/p elective AICD placement and right heart
   catheterization.
   .
   # Acute on chronic systolic CHF exacerbation: Patient with profound
   biventricular systolic dysfunction, presumably secondary to prior heavy
   cocaine use in year prior to CHF diagnosis.  Cardiac catheterization
   performed on [**1-10**] included myocardial biopsy. TTE of [**1-9**] shows EF of
   10% that may be an overestimate. [**First Name9 (NamePattern2) 10528**] [**Location (un) 103**] elevated PA pressures and
   wedge pressures during catheterization. His morbid obesity and history
   of substance abuse makes cardiac transplantation candidacy
   questionable.  Diuresis very sensitive to BP, i.e., UOP improves
   significantly when sBP is above 120. On [**1-14**], decrease valsartan from
   40mg to 20mg daily since pt
s UOP is very sensitive to BP. CXR
   demonstrates improved pulmonary edema, lower extremity edema improved,
   length of stay negative 7L.. Changed Metoprolol 50mg TID to carvedilol
   3.125mg [**Hospital1 **] on [**1-14**] but held [**1-22**] BP. Changed back to 25 TID metoprolol
   for better rate control. Diuresis complicated by hyperbicarbia
   (contraction)
   -  Continue Lasix gtt with metalozone diuresis, goal - 2 L today
   - adding diamox 500 [**Hospital1 **]
   - replete K to 5
   -  F/U myocardial pathology
   -  Eplerenone is structurally similar to spironolactone, so given h/o
   allergy to spironolactone and current rash, would hold off on
   eplerenone
   - consider restarting metoprolol in place of carvedilol, 25 TID
   -   Continue Digoxin
   - can remove swan once pt has better access
   .
   # Failure to extubate: Patient was unable to be extubated in the PACU
   s/p ICD placement, EP study and right heart cardiac catherization on
   [**1-8**]. Likely in setting of extrapulmonary restriction (morbid
   obesity/large body habitus) and poor lung compliance due to volume
   overload from patient's systolic and diastolic heart failure. Cardiac
   catheterization with swann placement on [**1-10**] demonstrated elevated
   wedge pressures.  ABG
s demonstrate chronic respiratory acidosis with
   appropriate metabolic compensation, which is consistent with patient
   baseline and is likely due to obesity hypoventilation. Today, CXR
   improved, diastolic PA pressures around 20 and edema significantly
   improved.  Vent setting was changed from AC to PS yesterday morning
   [**1-13**], which was turned back to AC o/n for respiratory acidosis. Patient
   now tolerating PS of [**9-29**].
   - Continue diuresis for goal negative of [**8-30**] litres (LOS)
   - consider precedex for sedation pre-extrubation attempt
   - wean PEEP as tolerated
   - ABG
s PRN
   - when more stable, will extubate to BiPAP
   - keep HOB at 30
   - f/u pulmonary recs
   - Continue Fentanyl/Versed sedation for now
   .
   # Fever: Patient with fever to 101.2 on arrival to CCU, Tmax 102.9 on
   [**1-12**] and 101.1 on [**1-13**] after vancomycin was held after 4 days of
   treatment on [**1-11**]. Vanc was re-started on [**1-12**].  Sputum culture
   demonstrates pan-sensitive Serratia Marcescens. UA/Ucx negative. Blood
   cx from [**1-12**] grew GPC, speciation and sensitivities pending. RUQ US:
   normal.  Meds could be responsible to the fever as well. Patient has
   blanching lower extremity rash in line with drug reaction
   - f/u blood cultures GPC speciation and sensitivities
   - Continue Vancomycin, day 4
   - Continue Levofloxacin, day 7
   - will start cefepime today if pt spikes again
   - remove swan catheter if PICC placement
   - f/u CXR
   - Tylenol prn: fever (< 2 grams daily)
   - Continue to monitor for progression in suspected drug rash
   .
   # Acute renal failure: Resolving. Creatinine 1.7 on admission and up to
   2.1 on [**1-9**] (baseline 1.1). Cr stable at 1.2 today. ARF likely [**1-22**] poor
   forward flow in the setting of depressed EF. On Lasix gtt.
   - Lasix gtt with goal negative 1L
   - decrease Valsartan from 40mg to 20mg daily
   .
   # RHYTHM: Patient is s/p AICD placement for primary prevention of
   tachyarrythmias given non-ischemic cardiomyopathy EF of 10%
   (presently). One episode of NSVT in the CCU.  Dig level 0.9 on [**1-9**].
   Patient will need PA/lateral CXR once he is extubated to check lead
   position.
   - Replete K to 5, Mg > 2
   - Continue Digoxin 0.25mg daily
   - either Metoprolol 25-50mg TID, start carvedilol 3.125mg [**Hospital1 **]
   .
   # Hyperbilirubinemia: Stable at 2.2. Etiologies include obstructive and
   infiltrative disease though most likely congestive. Given fever, he was
   ruled out for cholecystitis and may have gallbladder agenesis as it was
   unable to be imaged by CT or US.
   - Trend LFT
   .
   # CORONARIES: No known hx of CAD. No coronary disease reported on
   cardiac catheterization.
   - ASA 325mg daily
   - either Metoprolol 50mg TID or carvedilol 3.125mg [**Hospital1 **]
   - Valsartan 20mg PO daily
   .
   # Anemia: Known iron deficiency anemia.
   - Trend Hct
   - Ferrous Sulfate 325mg PO TID, on bowel regimen
   - Ascorbic acid 250mg PO TID
   .
   # Asthma: Will start Albuterol 1-2 puffs q6H:PRN wheezing when
   extubated
   .
   # OSA:  Restart nocturnal CPAP once extubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-9**] 02:03 AM
   PA Catheter - [**2193-1-10**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   Patient is diuresing steadily.  His PAD is 25 and RAP 17.  His CO is
   well-preserved, and BP stable.  Would like to do a modest amount of
   further volume unloading then try to wean vent.  Switch from carvedilol
   to metoprolol given hx asthma and borderline BP
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2193-1-15**]
   15:39 ------

2193-01-16 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2193-1-15**] 09:06 AM
 PA CATHETER - STOP [**2193-1-15**] 05:00 PM
 BLOOD CULTURED - At [**2193-1-16**] 06:00 AM
 BLOOD CULTURED - At [**2193-1-16**] 06:29 AM
 FEVER - 101.6
F - [**2193-1-16**] 12:00 AM
   - PICC placed this AM, pulled PA line at 4:30PM
   - Diamox 500 [**Hospital1 **], metolazone 5mg PO x 1
   - d/c'd carvedilol, switched to tartrate 25mg PO TID given tachycardia
   and runs of NSVT
   - held 4pm Lopressor as UOP dipped during the early afternoon when
   sbp's dropped to the 90's, sbp's continued to be in the 90's without
   great UOP
   - goal 2L negative today (goal: -10L, dPAP 20), but sbp's in the 90's
   so UOP was not great
   - 11PM lytes demonstrated significant Cr bump to 2.3 up from 1.3 this
   AM, so Lasix gtt held
   - got reglan for elevated TF residuals and concern for constipation
   - TF's held at MN in anticipation of possible extubation
   - Pt with small amount of BRB from G-tube, T&S ordered, Hct stable, put
   in IV PPI, gastric lavage demonstrated some small old clots, but no
   fresh blood, TF's held, GI is aware - will see in the AM
   Allergies:
   Cozaar (Oral) (Losartan Potassium)
   Cough;
   Spironolactone
   Rash; itching;
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-1-15**] 12:00 PM
   Vancomycin - [**2193-1-15**] 08:29 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Metoprolol - [**2193-1-15**] 10:12 AM
   Famotidine (Pepcid) - [**2193-1-15**] 08:50 PM
   Heparin Sodium (Prophylaxis) - [**2193-1-15**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-1-16**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.7
C (99.9
   HR: 120 (86 - 136) bpm
   BP: 159/75(101) {92/44(60) - 162/75(101)} mmHg
   RR: 24 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 183.2 kg (admission): 200.6 kg
   Height: 70 Inch
    CVP: 16 (13 - 16)mmHg
   PAP: (43 mmHg) / (29 mmHg)
   Total In:
                                                                  2,941 mL
                                                                    173 mL
   PO:
   TF:
                                                                    883 mL
                                                                      1 mL
   IVF:
                                                                  1,388 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  3,885 mL
                                                                    930 mL
   Urine:
                                                                  3,885 mL
                                                                    750 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                   -944 mL
                                                                   -757 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 571 (504 - 571) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 97%
   ABG: 7.35/65/99.[**Numeric Identifier 433**]/36/6
   Ve: 9 L/min
   PaO2 / FiO2: 198
   4.0Physical Examination
   General Appearance: Well nourished, Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, distant heart sounds. Normal s1, s2. no m/r/g
   Peripheral Vascular: pulses palpable throughout
   Respiratory / Chest: clear from anterior
   Abdominal: Soft, Obese, blanching rash improved on the low abdomen
   Extremities: LE edema largely resolved
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   4.0
   146
   189 K/uL
   12.2 g/dL
   100
   2.4
   37
   44
   98
   38.1 %
   9.9 K/uL
        [image002.jpg]
                             [**2193-1-14**]  09:39 PM
                             [**2193-1-14**]  09:44 PM
                             [**2193-1-15**]  06:00 AM
                             [**2193-1-15**]  06:23 AM
                             [**2193-1-15**]  03:01 PM
                             [**2193-1-15**]  03:48 PM
                             [**2193-1-15**]  11:30 PM
                             [**2193-1-15**]  11:41 PM
                             [**2193-1-16**]  06:01 AM
                             [**2193-1-16**]  06:28 AM
   WBC
   10.4
   9.9
   Hct
   35
   37.9
   37.6
   38.1
   Plt
   182
   189
   Cr
   1.3
   1.7
   2.3
   TCO2
   37
   31
   41
   37
   Glucose
   93
   91
   98
   Other labs:
   PT: 15.2
   PTT: 23.7
   INR: 1.3
   Ca:9.8     Mg:2.5      Phos:5.5
   Assessment and Plan
   24 yo M with non-ischemic cardiomyopathy admitted to CCU after failure
   to extubate s/p elective AICD placement and right heart
   catheterization.
   .
   # Acute on chronic systolic CHF exacerbation: Patient with profound
   biventricular systolic dysfunction, presumably secondary to prior heavy
   cocaine use in year prior to CHF diagnosis.  Cardiac catheterization
   performed on [**1-10**] included myocardial biopsy. TTE of [**1-9**] shows EF of
   10% that may be an overestimate. [**First Name9 (NamePattern2) 10528**] [**Location (un) 103**] elevated PA pressures and
   wedge pressures during catheterization. His morbid obesity and history
   of substance abuse makes cardiac transplantation candidacy
   questionable.  Diuresis very sensitive to BP, i.e., UOP improves
   significantly when sBP is above 120. On [**1-14**], decrease valsartan from
   40mg to 20mg daily since pt
s UOP is very sensitive to BP. CXR
   demonstrates improved pulmonary edema, lower extremity edema improved,
   length of stay negative 7L.. Changed Metoprolol 50mg TID to carvedilol
   3.125mg [**Hospital1 **] on [**1-14**] but held [**1-22**] BP. Changed back to 25 TID metoprolol
   for better rate control on [**1-15**], but held on [**1-15**] given hypotension and
   poor UOP. Diuresis complicated by hyperbicarbia (contraction) and now
   acute renal failure (creatinine bumped from 1.3 to 2.3). Eplerenone is
   structurally similar to spironolactone, so given h/o allergy to
   spironolactone and current rash, would hold off on eplerenone
   -  hold lasix gtt, diamox, metolazone and valsartan for now
   -  continue BB
   -  replete K to 5
   -  F/U myocardial pathology
   -  hold Digoxin
   .
   # Failure to extubate: Patient was unable to be extubated in the PACU
   s/p ICD placement, EP study and right heart cardiac catherization on
   [**1-8**]. Likely in setting of extrapulmonary restriction (morbid
   obesity/large body habitus) and poor lung compliance due to volume
   overload from patient's systolic and diastolic heart failure. Cardiac
   catheterization with swann placement on [**1-10**] demonstrated elevated
   wedge pressures.  ABG
s demonstrate chronic respiratory acidosis with
   appropriate metabolic compensation, which is consistent with patient
   baseline and is likely due to obesity hypoventilation. Today, CXR
   improved, diastolic PA pressures around 20 and edema significantly
   improved.  Vent setting was changed from AC to PS on [**1-13**], which was
   turned back to AC o/n for respiratory acidosis. Patient now tolerating
   PS of [**9-29**].
   -  hold lasix gtt, diamox, metolazone for now
   -  decrease PEEP to 8, attempt extubation today, will extubated to
   BiPAP
   -  wean off sedation, consider precedex for sedation pre-extrubation
   attempt
   -  ABG
s PRN
   -  keep HOB at 30
   -  f/u pulmonary recs
   .
   # Fever: Patient with fever to 101.2 on arrival to CCU, Tmax 102.9 on
   [**1-12**] and 101.1 on [**1-13**] after vancomycin was held after 4 days of
   treatment on [**1-11**].  Patient continued to spike fevers on [**1-15**]. Vanc was
   re-started on [**1-12**].  Sputum culture from [**1-9**] and [**1-12**] demonstrates
   pan-sensitive Serratia Marcescens. Sputum cx from [**1-13**] grew out GNR
   again.  UA/Ucx negative. Blood cx from [**1-12**] grew CoNS, sensitivities
   pending. RUQ US: normal.  Meds could be responsible to the fever as
   well. Patient has blanching lower extremity rash in line with drug
   reaction.  Swan catheter was removed on [**1-15**] after PICC placed.  CXR
   shows persistent LLL opacity, consistent with atelectasis or infection.
   - Continue Vancomycin, day 5
   - Continue Levofloxacin, day 8
   - add cefepime (day1: [**1-16**])
   - Tylenol prn: fever (< 2 grams daily)
   - Continue to monitor for progression in suspected drug rash
   .
   # Acute renal failure: Creatinine bumped from 1.3 to 2.3 on [**1-15**] in the
   setting of hypotension, patient was receiving lasix gtt as well as
   diamox, metolazone, and captopril.  Patient
s UOP is very sensitive to
   BP.  Feurea 14.
   - hold lasix, diamox, metolazone, and captopril for now
   - follow up urine eos
   - renal consult
   - avoid renal toxins and renally dose meds
   - continue to trend renal function
   .
   # UGIB:  Patient was noted to have UGIB yesterday on [**1-15**].  His hct is
   stable. NGT output was coffee-ground early this morning which later
   resolved in the morning.
   - maintain active T+S
   - continue IV PPI
   - get pm hct
   - f/u GI recs
   - can restart TF once UGIB stops and if not extubating
   .
   # RHYTHM: Patient is s/p AICD placement for primary prevention of
   tachyarrythmias given non-ischemic cardiomyopathy EF of 10%
   (presently). One episode of NSVT in the CCU.  Dig level 0.9 on [**1-9**].
   Patient will need PA/lateral CXR once he is extubated to check lead
   position.
   - Replete K to 5, Mg > 2
   - hold digoxin today
   - hold BB for now
   .
   # Hyperbilirubinemia: Stable at 2.1. Etiologies include obstructive and
   infiltrative disease though most likely congestive. Given fever, he was
   ruled out for cholecystitis and may have gallbladder agenesis as it was
   unable to be imaged by CT or US.
   - Trend LFT
   .
   # CORONARIES: No known hx of CAD. No coronary disease reported on
   cardiac catheterization.
   - continue ASA 325mg daily
   - continue BB
   .
   # Anemia: Known iron deficiency anemia.  Hct stable despite small GIB
   - Trend Hct
   - Ferrous Sulfate 325mg PO TID, on bowel regimen
   - Ascorbic acid 250mg PO TID
   .
   # Asthma: Will start Albuterol 1-2 puffs q6H:PRN wheezing when
   extubated.  Use carvedilol with caution since it can exacerbate asthma.
   .
   # OSA:  Restart nocturnal CPAP once extubated.
   ICU Care
   Nutrition:
   TF currently on hold for possible extubation today and given UGIB
   Glycemic Control:  not on insulin
   Lines:
   Arterial Line - [**2193-1-9**] 02:03 AM
   PICC Line - [**2193-1-15**] 09:06 AM
   20 Gauge - [**2193-1-16**] 12:27 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: on PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments: bowel regimen
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 45 minutes.
   Additional comments:
   rising creat and falling bp indicate that we are at the limit of volume
   unloading
   his pneumonia and body habitus are now the main impediments to
   extuvbation (plus his alkalemia)
   will cont Diamox but stop all other diuretics
   cont abx for pneumonia
   reassess for extubatability tomorrow
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2193-1-16**]
   14:36 ------

2193-01-17 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2193-1-16**] 12:20 PM
 FEVER - 102.0
F - [**2193-1-17**] 05:00 AM
   - started on cefepime
   - persistently febrile even after cefepime was added; d/c'd Vanc
   - renal consulted for ARF: prerenal, no ATN; likely overdiuresis + [**Last Name (un) 284**].
   Creatinine improved to 1.7 yesterday afternoon but worsened to 2.4 this
   morning
   - GI : watch and wait with ppi and hct checks
   - [**Doctor Last Name **]: done with diuresis, maintain neutral balance. continuing
   diamox [**Hospital1 **]
   - heart rate at 124, restarted on digoxin
   - Urine positive for Eos
   - Heart rate to 140 @ 330; BP 140/69; given 5 mg of Metoprolol IV
   - put back on AC for ph 7.24/86/92/39
   Allergies:
   Cozaar (Oral) (Losartan Potassium)
   Cough;
   Spironolactone
   Rash; itching;
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-1-16**] 12:00 PM
   Vancomycin - [**2193-1-16**] 09:20 PM
   Cefipime - [**2193-1-17**] 12:22 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-1-16**] 09:19 PM
   Pantoprazole (Protonix) - [**2193-1-17**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-1-17**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 120 (78 - 137) bpm
   BP: 130/60(83) {91/44(61) - 159/81(102)} mmHg
   RR: 22 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.7 kg (admission): 200.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,583 mL
                                                                    343 mL
   PO:
             TF:
                                                                  1,023 mL
                                                                    161 mL
   IVF:
                                                                    761 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  2,655 mL
                                                                    345 mL
   Urine:
                                                                  2,475 mL
                                                                    345 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                    -72 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 618 (583 - 783) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 33 cmH2O
   Plateau: 21 cmH2O
   Compliance: 52.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.31/73.[**Numeric Identifier **]/94.[**Numeric Identifier 433**]/36/6
   Ve: 13 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished, Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, distant heart sounds. Normal s1, s2. no m/r/g
   Peripheral Vascular: pulses palpable throughout
   Respiratory / Chest: clear from anterior
   Abdominal: Soft, Obese, blanching rash improved on the low abdomen
   Extremities: LE edema largely resolved
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   199 K/uL
   12.7 g/dL
   125 mg/dL
   2.4 mg/dL
   36 mEq/L
   4.8 mEq/L
   50 mg/dL
   99 mEq/L
   145 mEq/L
   40.6 %
   15.4 K/uL
        [image002.jpg]
                             [**2193-1-15**]  03:48 PM
                             [**2193-1-15**]  11:30 PM
                             [**2193-1-15**]  11:41 PM
                             [**2193-1-16**]  06:01 AM
                             [**2193-1-16**]  06:28 AM
                             [**2193-1-16**]  12:59 PM
                             [**2193-1-16**]  04:27 PM
                             [**2193-1-17**]  03:25 AM
                             [**2193-1-17**]  03:42 AM
                             [**2193-1-17**]  05:42 AM
   WBC
   9.9
   10.3
   15.4
   Hct
   37.6
   38.1
   38.3
   40.6
   Plt
   189
   185
   199
   Cr
   2.3
   2.4
   1.7
   2.4
   TCO2
   41
   37
   37
   39
   39
   Glucose
   98
   100
   91
   125
   Other labs: PT / PTT / INR:15.3/23.6/1.3,
   Differential-Neuts:74.9 %, Lymph:14.9 %, Mono:5.3 %, Eos:4.7 %, Lactic
   Acid:1.0 mmol/L, Ca++:9.9 mg/dL, Mg++:2.7 mg/dL, PO4:6.7 mg/dL
   Sputum cx from [**1-9**], [**1-12**] and [**1-13**] are positive witih serratia
   Marcescens.
   Sputum cx from [**1-15**]: pending. Gram stain neg.
   Endomyocardial bx: Of the four fragments, only two contain cardiac
   muscle and one of these is very small in size.  The other two fragments
   consist of endocardial fibrotic tissue (confirmed by Trichrome stain)
   and blood clot, respectively.  The myocardium shows non-specific
   hypertrophy and degenerative changes.  No interstitial fibrosis,
   inflammation, acute necrosis, or amyloid deposition (confirmed by [**Country 10606**]
   red stain).  However, this is a very limited sample.
   Assessment and Plan
   24 yo M with non-ischemic cardiomyopathy admitted to CCU after failure
   to extubate s/p elective AICD placement and right heart
   catheterization.
   .
   # Fever and leukocytosis: Patient continued to be febrile up to 102F
   this morning despite Tylenol and cooling blanket.  WBC trending up,
   from 10.3 to 15.4, and eos 4.7%.  Patient was started on cefepime
   yesterday on [**1-16**], so this persistent fever and elevated white count
   could be drug-fever related to cefepime.  Vanc was discontinued on
   [**1-16**]. Sputum culture from [**1-9**] and [**1-12**] and [**1-13**] demonstrates
   pan-sensitive Serratia Marcescens. Sputum cx from [**1-15**] pending but gram
   stain showed no organisms.   CXR shows persistent LLL opacity,
   consistent with atelectasis or infection. UA/Ucx negative, but urine
   eos positive. Blood cx from [**1-12**] grew CoNS in
 bottles, likely
   contamination.  Swan catheter was removed on [**1-15**] after PICC placed.RUQ
   US: normal.
   - continue cefepime day2
   - Continue Levofloxacin, day 9
   - check c.diff
   - start flagyl
   - Tylenol prn: fever (< 2 grams daily)
   - Continue to monitor for progression in suspected drug rash
   .
   # Respiratory failure: Patient was stable on PS [**9-27**] most of the day
   yesterday, but ABG at 3am this morning looked worse with respiratory
   acidosis, so was switched back to AC this morning.  The barrier to
   extubation includes extrapulmonary restriction (morbid obesity/large
   body habitus), poor lung compliance due to volume overload from
   patient's systolic and diastolic heart failure, and serratia pneumonia.
   Patient was on lasix gtt for aggressive diuresis up until 2 days ago on
   [**1-15**] when he developed acute renal failure.  LOS fluid balance is
   -6700cc today.
   -  continue to hold lasix gtt, diamox and metolazone for now
   - Continue Levofloxacin, day [**4-28**] need to consider trachostomy given patient
s dependence on
   ventilator for breathing
   -  ABG
s PRN
   -  keep HOB at 30
   -  f/u pulmonary recs
   .
   # Acute renal failure: Creatinine bumped from 1.3 to 2.3 on [**1-15**] in the
   setting of hypotension, patient was receiving lasix gtt as well as
   diamox, metolazone, and captopril.  Creatinine improved on [**1-16**] to 1.7,
   but this morning it worsened again to 2.4.  Renal was consulted on
   [**1-16**], and urine showed no evidence of ATN.
   - hold lasix, diamox, metolazone, and valsartan for now
   - pm lytes
   - consider IVF boluses
   - renal consult
   - avoid renal toxins and renally dose meds
   - continue to trend renal function
   .
   # Acute on chronic systolic CHF exacerbation: Patient with profound
   biventricular systolic dysfunction, presumably secondary to prior heavy
   cocaine use in year prior to CHF diagnosis.  Cardiac catheterization
   performed on [**1-10**] included myocardial biopsy. TTE of [**1-9**] shows EF of
   10% that may be an overestimate. [**First Name9 (NamePattern2) 10528**] [**Location (un) 103**] elevated PA pressures and
   wedge pressures during catheterization. His morbid obesity and history
   of substance abuse makes cardiac transplantation candidacy
   questionable.  Diuresis very sensitive to BP, i.e., UOP improves
   significantly when sBP is above 120. On [**1-14**], decrease valsartan from
   40mg to 20mg daily since pt
s UOP is very sensitive to BP. CXR
   demonstrates improved pulmonary edema, lower extremity edema improved,
   length of stay negative 7L.. Changed Metoprolol 50mg TID to carvedilol
   3.125mg [**Hospital1 **] on [**1-14**] but held [**1-22**] BP. Changed back to 25 TID metoprolol
   for better rate control on [**1-15**], but held on [**1-15**] given hypotension and
   poor UOP. Diuresis complicated by hyperbicarbia (contraction) and now
   acute renal failure (creatinine bumped from 1.3 to 2.3). Eplerenone is
   structurally similar to spironolactone, so given h/o allergy to
   spironolactone and current rash, would hold off on eplerenone
   -  continue to hold lasix gtt, diamox, metolazone and valsartan for now
   -  continue BB
   -  Digoxin was restarted on the afternoon of [**1-16**] because of
   tachycardia after being held in the morning, will continue digoxin for
   now
   -  replete K to 5
   .
   # RHYTHM: Patient continues to be tachycardic.  HR was up to 140s
   yesterday. Patient is s/p AICD placement for primary prevention of
   tachyarrythmias given non-ischemic cardiomyopathy EF of 10%
   (presently). One episode of NSVT in the CCU.  Dig level 0.9 on [**1-9**].
   Patient will need PA/lateral CXR once he is extubated to check lead
   position.
   - Replete K to 5, Mg > 2
   -  Digoxin was restarted on the afternoon of [**1-16**] because of
   tachycardia after being held in the morning, will continue digoxin for
   now
   - continue metoprolol 25mg TID
   .
   # UGIB:  Patient was noted to have UGIB on [**1-15**].  His hct has been
   stable. UGIB slowed down on [**1-16**], and now has resolved.
   - maintain active T+S
   - continue IV PPI for now
   - f/u GI recs
   - restart TF
   .
   # Hyperbilirubinemia: Stable at 2.1. Etiologies include obstructive and
   infiltrative disease though most likely congestive. Given fever, he was
   ruled out for cholecystitis and may have gallbladder agenesis as it was
   unable to be imaged by CT or US.
   - Trend LFT
   .
   # CORONARIES: No known hx of CAD. No coronary disease reported on
   cardiac catheterization.
   - continue ASA 325mg daily
   - continue metoprolol 25mg TID
   .
   # Anemia: Known iron deficiency anemia.  Hct stable despite small GIB
   noted on [**1-15**].
   - Trend Hct
   - Ferrous Sulfate 325mg PO TID, on bowel regimen
   - continue IV PPI
   - Ascorbic acid 250mg PO TID
   .
   # Asthma: Will start Albuterol 1-2 puffs q6H:PRN wheezing when
   extubated.  Use carvedilol with caution since it can exacerbate asthma.
   .
   # OSA:  Restart nocturnal CPAP once extubated.
   ICU Care
   Nutrition: TF
   Glycemic Control:  not on insulin
   Lines:
   Arterial Line - [**2193-1-9**] 02:03 AM
   PICC Line - [**2193-1-15**] 09:06 AM
   20 Gauge - [**2193-1-16**] 12:27 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: on PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments: bowel regimen
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 45 minutes.
   Additional comments:
   pneumonia and poor ventilatory mechanics remain a barrier to vent
   weaning
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2193-1-17**]
   11:22 ------